US04582526
A mixture consisting of 2.8 g of hydroquinone monobenzyl ether, 3.56 g of methyl 2-(2-bromopropionyloxy)ethylcarbamate, 3.87 g of potassium carbonate and 30 ml of acetone is heated at reflux for 2 hours while stirring. The cooled mixture is filtered and the filtrate is evaporated. After flash chromatography, the residue gives pure methyl 2-[[2-(4-benzyloxyphenoxy)propionyl]oxy]ethylcarbamate of melting point 79°-81° C. 1.0 g thereof is dissolved in 100 ml of ethyl acetate and hydrogenated in the presence of 0.1 g of 5% palladium-on-carbon. After shaking for 45 minutes, the hydrogen uptake has finished. The catalyst is filtered off and the solvent is removed on a rotary evaporator. There is obtained methyl 2-[[2-(4-hydroxyphenoxy)propionyl]oxy]ethylcarbamate; nD20 1.5003.

reactant | hydroquinone monobenzyl ether | 2.8 g | C=1(O)C(=CC(O)=CC1)C1=CC=CC=C1COCC1=CC=CC=C1C=1C(O)=CC=C(C1)O | C26H22O5
reactant | methyl 2-(2-bromopropionyloxy)ethylcarbamate | 3.56 g | BrC(C(=O)OCCNC(OC)=O)C | C7H12BrNO4
reactant | potassium carbonate | 3.87 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | methyl 2-[[2-(4-benzyloxyphenoxy)propionyl]oxy]ethylcarbamate | C(C1=CC=CC=C1)OC1=CC=C(OC(C(=O)OCCNC(OC)=O)C)C=C1 | C20H23NO6
